US07456191B2
(R)-2-(2-Chloro-5-nitro-pyrimidin-4-ylamino)-propan-1-ol
A solution of 315 mg (4.2 mmol) of (R)-2-Amino-propan-1-ol in 5 ml of acetonitrile is added slowly to a suspension of 388 mg (2.0 mmol) of 2,4-dichloro-5-nitro-pyrimidine in 20 ml acetonitrile at −30° C. to −20° C. The batch is stirred for 3 hours at −30° C. to −20° C. The batch is diluted with ethylacetate and ice water. The batch is extracted with ethyl acetate (3×). The combined organic phases are washed with NaCl solution, dried (Na2SO4), filtered and concentrated by evaporation. 350 mg (1.51 mmol, corresponding to 76% of theory) of the product is obtained.

reactant | (R)-2-Amino-propan-1-ol | 4.2 mmol, 315 mg | N[C@@H](CO)C | C3H9NO
reactant | 2,4-dichloro-5-nitro-pyrimidine | 2.0 mmol, 388 mg | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (R)-2-(2-Chloro-5-nitro-pyrimidin-4-ylamino)-propan-1-ol | ClC1=NC=C(C(=N1)N[C@@H](CO)C)[N+](=O)[O-] | C7H9ClN4O3
